US04237067
N-(3-dimethylaminopropyl)crotonic acid amide.
117.2 g (1.0 mole) of 3-methoxybutyric acid amide are heated with 103.7 g (1.05 mole) of 3-dimethylaminopropylamine for 10 hours in a temperature range of 145°-175° C. The mixture is allowed to cool, 1.5 g of sodium hydroxide are added and the mixture is heated in a high vacuum at 120°-130° C. The methanol is split off within about 30 minutes, vigorous foaming occurring. The temperature is increased and 130 g (0.76 mole=76% of the theoretical yield) of light yellow oil having a Bp0.1 of 132°-134° C. are distilled off.

reactant | 3-methoxybutyric acid amide | 1.0 mole, 117.2 g | COC(CC(=O)N)C | C5H11NO2
reactant | 3-dimethylaminopropylamine | 1.05 mole, 103.7 g | CN(CCCN)C | C5H14N2
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
product | N-(3-dimethylaminopropyl)crotonic acid amide | CN(CCCNC(\C=C\C)=O)C | C9H18N2O
